US07342027B2
Preparation of 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-[4-fluoro-2-(2,3,4-trifluorobenzoylamino)phenyl]piperidin-3-one
In accordance with the same procedure as in Example 87, except that 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-aminophenyl)piperidin-3-ol was used instead of 4-[N-[1-[N-(furan-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-aminophenyl)piperidin-3-ol and 2,3,4-trifluorobenzoyl chloride was used instead of methoxyacetyl chloride in Step 3 thereof, 321 mg of the titled compound was prepared.

reactant | 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-aminophenyl)piperidin-3-ol | FC1=CC=C(C(=O)NC2(CCCCC2)C(=O)NC2C(CN(CC2)C2=C(C=C(C=C2)F)N)O)C=C1 | C25H30F2N4O3
reactant | 2,3,4-trifluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1F)F | C7H2ClF3O
product | 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-[4-fluoro-2-(2,3,4-trifluorobenzoylamino)phenyl]piperidin-3-one | 321 mg | FC1=CC=C(C(=O)NC2(CCCCC2)C(=O)NC2C(CN(CC2)C2=C(C=C(C=C2)F)NC(C2=C(C(=C(C=C2)F)F)F)=O)=O)C=C1 | C32H29F5N4O4
